### PR TITLE
Discrete and continuous abel transforms

### PR DESCRIPTION
**Pull request by Tragicus**
##### Motivation for this change

Abel transforms and a few helper lemmas, as part of #1720.

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- ~[ ] added corresponding documentation in the headers~

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

**Comment by Tragicus** [comment]
I forgot to credit the main author, which is very silly, I will do it with the first round of reviews.

File: classical/unstable.v [hunk 1]
```diff
@@ -592,3 +592,10 @@ Proof. exact: real_ltr_bound. Qed.
 
 Lemma ltrNbound {R : archiRealDomainType} (x : R) : - x < (Num.bound x)%:R.
 Proof. exact: real_ltrNbound. Qed.
+
+Lemma floor_nat (R : archiNumDomainType) n : absz (floor (n%:R : R)) = n.
+Proof.
+apply: (can_inj absz_nat).
+rewrite gez0_abs; first by rewrite real_floor_ge0.
+by apply /(@intr_inj R) /eqP; rewrite -[_ == _]intrEfloor.
+Qed.
```
Comment (affeldt-aist) [inline classical/unstable.v]:
```suggestion
Lemma floor_nat (R : archiNumDomainType) n : floor (n%:R : R) = n.
Proof. by apply/(@intr_inj R)/eqP; rewrite -[_ == _]intrEfloor. Qed.

Lemma absz_floor_nat (R : archiNumDomainType) n : `|floor (n%:R : R)|%N = n.
Proof.
by apply: (can_inj absz_nat); rewrite gez0_abs ?real_floor_ge0// floor_nat.
Qed.
```
